US08754107B2
a) 2-amino-1-(3-methyl-3-(4-phenylpiperidin-1-yl)pyrrolidin-1-yl)ethanone
The title compound was prepared from 1-(3-methylpyrrolidin-3-yl)-4-phenylpiperidine and 2-(tert-butoxycarbonylamino)acetic acid using general procedures G, F.

reactant | 1-(3-methylpyrrolidin-3-yl)-4-phenylpiperidine | CC1(CNCC1)N1CCC(CC1)C1=CC=CC=C1 | C16H24N2
reactant | 2-(tert-butoxycarbonylamino)acetic acid | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
product | 2-amino-1-(3-methyl-3-(4-phenylpiperidin-1-yl)pyrrolidin-1-yl)ethanone | NCC(=O)N1CC(CC1)(N1CCC(CC1)C1=CC=CC=C1)C | C18H27N3O
